US09108969B2
Step A: Preparation of tert-Butyl 2-(9-iodo-7-(4-Isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate
To a solution of tert-butyl 2-(7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate (0.722 g, 1.434 mmol) in DCM (24 mL) at 0° C. was added NIS (1.434 mmol). After 5 minutes, the reaction was diluted with DCM and washed with water (twice) and saturated sodium thiolsulfate (aq). The organics were dried over Na2SO4, filtered, and concentrated to give the title compound as a light-brown solid. LCMS m/z=630.5 [M+H]+; 1H NMR (400 MHz, DMSO-d6) δ ppm 1.29 (d, J=6.06 Hz, 6H), 1.38 (s, 9H), 2.27-2.38 (m, 1H), 2.51-2.56 (m, 1H), 2.77-2.89 (m, 1H), 2.94 (dd, J=15.92, 3.41 Hz, 1H), 3.51-3.61 (m, 1H), 3.99-4.09 (m, 1H), 4.12-4.21 (m, 1H), 4.74-4.83 (m, 1H), 5.10 (s, 2H), 6.78 (d, J=2.27 Hz, 1H), 6.85 (dd, J=8.72, 2.40 Hz, 1H), 7.25 (d, J=8.84 Hz, 1H), 7.30 (d, J=8.34 Hz, 1H), 7.66-7.73 (m, 2H).

reactant | tert-butyl 2-(7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 1.434 mmol, 0.722 g | C(C)(C)OC1=C(C=C(COC2=CC=3C=C4N(C3C=C2)CCC4CC(=O)OC(C)(C)C)C=C1)C(F)(F)F | C28H32F3NO4
reactant | NIS | 1.434 mmol | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | DCM | 24 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 2-(9-iodo-7-(4-Isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | IC1=C2N(C=3C=CC(=CC13)OCC1=CC(=C(C=C1)OC(C)C)C(F)(F)F)CCC2CC(=O)OC(C)(C)C | C28H31F3INO4
